US06423704B1
1-((S)-α-Methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Combine 1-((S)-α-methylbenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine (Rf=0.59 silica gel, ethyl acetate) (0.67 g, 1.59 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.86 g, 1.59 mmol), and N,N-diisopropylethylamine (1.24 mL, 7.13 mmol) in acetonitrile (20 mL). Heat to reflux. After 16 hours, cool and evaporate in vacuo to give a residue. Combine the residue and ethyl acetate, extract twice with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting sequentially with with 15% methanol/dichloromethane and then 15% methanol/dichloromethane/1.0% concentrated aqueous ammonia to give a diastereomer of the title compound.

reactant | 1-((S)-α-methylbenzyl)-3-(4-fluorophenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | 1.59 mmol, 0.67 g | C[C@@H](C1=CC=CC=C1)N1C(C(CC1)(CCOS(=O)(=O)C)CC1=CC=C(C=C1)F)=O | C22H26FNO4S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 1.59 mmol, 0.86 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | N,N-diisopropylethylamine | 7.13 mmol, 1.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | methanol dichloromethane | CO.ClCCl
product | 1-((S)-α-Methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | C[C@@H](C1=CC=CC=C1)N1C(C(CC1)(CC1=CC=C(C=C1)F)CCN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2)=O | C37H46FN5O2
